US04873241
N-(2,3-Dihydro-2-phenyl-1H-inden-2-yl)-2-(4-morpholinyl)acetamide
Application of the methodology described above will provide all the compounds of the invention including, for example, the following compounds: 2-amino-N-[2,3-dihydro-2(2-bromophenyl)-1H-inden-2-yl]acetamide hydrochloride; 2-amino-N-[2,3-dihydro-2-(4-chlorophenyl)-1H-inden-2-yl]acetamide hydrochloride; 2-amino-N-[2,3-dihydro-2-(3-methylphenyl)-1H-inden-2-yl]acetamide hydrochloride; 2-amino-N-[2,3-dihydro-2-[4-(trifluoromethyl)phenyl]-1H-inden-2-yl]acetamide hydrochloride; 2-amino-N-[2,3-dihydro-2-(3-fluorophenyl)-1H-inden-2-yl]acetamide hydrochloride; 2-amino-N-[2,3-dihydro-2-(4-methoxyphenyl)-1H-inden-2-yl]acetamide hydrochloride; 2-amino-N-[2,3-dihydro-2-(3,4-dimethoxyphenyl)-1H-inden-2-yl]acetamide hydrochloride; 2-amino-N-[2,3-dihydro-2-(2,4-difluoro-phenyl)-1H-inden-2-yl]acetamide hydrochloride; 2-(methyl-amino)-N-[2,3-dihydro-2-(4-n-butoxyphenyl)-1H-inden-2yl]acetamide hydrochloride; 2-(dimethylamino)-N-[2,3-dihydro-2-(4-n-butylphenyl)-1H-inden-2-yl]acetamide hydrochloride.

reactant | 2-amino-N-[2,3-dihydro-2(2-bromophenyl)-1H-inden-2-yl]acetamide hydrochloride | Cl.NCC(=O)NC1(CC2=CC=CC=C2C1)C1=C(C=CC=C1)Br
reactant | 2-amino-N-[2,3-dihydro-2-(4-chlorophenyl)-1H-inden-2-yl]acetamide hydrochloride | Cl.NCC(=O)NC1(CC2=CC=CC=C2C1)C1=CC=C(C=C1)Cl
reactant | 2-amino-N-[2,3-dihydro-2-(3-methylphenyl)-1H-inden-2-yl]acetamide hydrochloride | Cl.NCC(=O)NC1(CC2=CC=CC=C2C1)C1=CC(=CC=C1)C
reactant | 2-amino-N-[2,3-dihydro-2-[4-(trifluoromethyl)phenyl]-1H-inden-2-yl]acetamide hydrochloride | Cl.NCC(=O)NC1(CC2=CC=CC=C2C1)C1=CC=C(C=C1)C(F)(F)F
reactant | 2-amino-N-[2,3-dihydro-2-(3-fluorophenyl)-1H-inden-2-yl]acetamide hydrochloride | Cl.NCC(=O)NC1(CC2=CC=CC=C2C1)C1=CC(=CC=C1)F
reactant | 2-amino-N-[2,3-dihydro-2-(4-methoxyphenyl)-1H-inden-2-yl]acetamide hydrochloride | Cl.NCC(=O)NC1(CC2=CC=CC=C2C1)C1=CC=C(C=C1)OC
reactant | 2-amino-N-[2,3-dihydro-2-(3,4-dimethoxyphenyl)-1H-inden-2-yl]acetamide hydrochloride | Cl.NCC(=O)NC1(CC2=CC=CC=C2C1)C1=CC(=C(C=C1)OC)OC
reactant | 2-amino-N-[2,3-dihydro-2-(2,4-difluoro-phenyl)-1H-inden-2-yl]acetamide hydrochloride | Cl.NCC(=O)NC1(CC2=CC=CC=C2C1)C1=C(C=C(C=C1)F)F
reactant | 2-(methyl-amino)-N-[2,3-dihydro-2-(4-n-butoxyphenyl)-1H-inden-2yl]acetamide hydrochloride | Cl.CNCC(=O)NC1(CC2=CC=CC=C2C1)C1=CC=C(C=C1)OCCCC
reactant | 2-(dimethylamino)-N-[2,3-dihydro-2-(4-n-butylphenyl)-1H-inden-2-yl]acetamide hydrochloride | Cl.CN(CC(=O)NC1(CC2=CC=CC=C2C1)C1=CC=C(C=C1)CCCC)C
product | N-(2,3-Dihydro-2-phenyl-1H-inden-2-yl)-2-(4-morpholinyl)acetamide | C1(=CC=CC=C1)C1(CC2=CC=CC=C2C1)NC(CN1CCOCC1)=O | C21H24N2O2
